US04663319
3-Pyridylmethylamine (10.81 g) is dissolved in methanol (50 ml), and thereto is added dropwise methyl acrylate (8.60 g) under ice-cooling. The mixture is stirred at room temperature for 18 hours. The mixture is distilled to remove the solvent, and then the residue is distilled under reduced pressure to give methyl 3-(3-pyridylmethylamino)propionate (16.02 g, 82.5%), b.p. 119°-120° C./0.4 mmHg.

reactant | 3-Pyridylmethylamine | 10.81 g | N1=CC(=CC=C1)CN | C6H8N2
reactant | methyl acrylate | 8.60 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 50 ml | CO | CH4O
product | methyl 3-(3-pyridylmethylamino)propionate | 16.02 g, 82.5% | N1=CC(=CC=C1)CNCCC(=O)OC | C10H14N2O2
